US05808062
4-Hydroxy-6-[3-methoxy-4-(phenylmethoxy)phenyl]-3-[(2-phenylethyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 4'-benzyloxy-3'-methoxyacetophenone (2.00 g, 7.81 mmol), lithium bis(trimethylsilyl)amide (1.96 g, 11.71 mmol), chlorotrimethylsilane (1.48 mL, 11.71 mmol), THF (80 mL), and diethyl ester of [(2-phenylethyl)thio]propanedioic acid (1.00 g, 3.37 mmol). m.p. 114°-115° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.77 (t, 2 H), 2.98 (t, 2 H), 3.86 (s, 1 H), 6.75 (s, 1 H), 7.21 (m, 7 H), 7.40 (m, 6 H).

reactant | 4'-benzyloxy-3'-methoxyacetophenone | 7.81 mmol, 2.00 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)OC | C16H16O3
reactant | lithium bis(trimethylsilyl)amide | 11.71 mmol, 1.96 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 11.71 mmol, 1.48 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(2-phenylethyl)thio]propanedioic acid | 3.37 mmol, 1.00 g | C1(=CC=CC=C1)CCSC(C(=O)O)C(=O)O | C11H12O4S
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-6-[3-methoxy-4-(phenylmethoxy)phenyl]-3-[(2-phenylethyl)thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC)=O)SCCC1=CC=CC=C1 | C27H24O5S
